US08044068B2
Synthesis of 2-((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-ylamino)quinoline-4-carboxylic acid dimethylamide mono hydrochloride (Compound 3-036)
A mixture of 2-chloroquinoline-4-carboxylic acid dimethylamide (0.20 g), 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (0.13 g), triethylamine (95 mg), and isopropanol (0.85 mL) was heated at 130° C. in a microwave reaction apparatus for 1.5 h. The reaction mixture was diluted with chloroform, washed with 1 M aqueous sodium hydroxide, and then dried with anhydrous magnesium sulfate. The desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and then the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=1:3−ethyl acetate) to obtain 2-((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-ylamino)quinoline-4-carboxylic acid dimethylamide (36 mg). (2) 2-((S)-1-(2-(4-Trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-ylamino)quinoline-4-carboxylic acid dimethylamide (36 mg) was dissolved in ethyl acetate, followed by addition of a solution (0.046 mL) of 4 M HCl in ethyl acetate. The mixture was concentrated under reduced pressure, and then the resulting residue was solidified with a mixed solvent of diisopropyl ether and chloroform to obtain the title compound (21 mg).

reactant | 2-((S)-1-(2-(4-Trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-ylamino)quinoline-4-carboxylic acid dimethylamide | 36 mg | CN(C(=O)C1=CC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O)C | C25H25F3N4O3
reactant | HCl | 4 M, 0.046 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-ylamino)quinoline-4-carboxylic acid dimethylamide mono hydrochloride | 21 mg | Cl.CN(C(=O)C1=CC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O)C | InChI=1S/C25H25F3N4O3.ClH/c1-31(2)24(34)20-14-22(30-21-6-4-3-5-19(20)21)29-17-11-12-32(15-17)23(33)13-16-7-9-18(10-8-16)35-25(26,27)28;/h3-10,14,17H,11-13,15H2,1-2H3,(H,29,30);1H/t17-;/m0./s1
